US05719152
1) 3-Methyl-2-nitrobenzylalcohol
To a refluxed solution of methyl 5-methyl-2-nitrobenzoate (50 g, 0.256 mol) and sodium borohydride (29 g, 0.768 mol) in THF (400 mL) was added dropwise methanol (60 mL) over 2.5 h. After the addition was completed, the mixture was refluxed for 1 h and allowed to cool at room temperature. The excess reagent was decomposed by addition of diluted hydrochloric acid (300 mL) and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give 43.0 g of the title compound (100%).

reactant | methyl 5-methyl-2-nitrobenzoate | 0.256 mol, 50 g | CC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C9H9NO4
reactant | sodium borohydride | 0.768 mol, 29 g | [BH4-].[Na+]
reactant | methanol | 60 mL | CO | CH4O
reactant | hydrochloric acid | 300 mL | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-Methyl-2-nitrobenzylalcohol | 43.0 g, 100% | CC=1C(=C(CO)C=CC1)[N+](=O)[O-] | C8H9NO3
